US05262415
(a) 4-Pyrrolidine-1-yl-3-nitropyridine
4-Chloro-3-nitropyridine (2.02 g, 12.7 mmol) was suspended in 15 ml of 1,4-dioxane. The suspension was cooled a little in an ice bath, and then pyrrolidine (2.1 ml, 25.3 mmol) was added dropwise thereto. The temperature of the suspension was returned to room temperature, and the suspension was stirred for 30 minutes, followed by removal of the solvent by distillation under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to obtain 2.34 g of a yellow solid (yield: 95.4%).

reactant | 4-Chloro-3-nitropyridine | 12.7 mmol, 2.02 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | pyrrolidine | 25.3 mmol, 2.1 ml | N1CCCC1 | C4H9N
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-Pyrrolidine-1-yl-3-nitropyridine | 2.34 g, yield: 95.4% | N1(CCCC1)C1=C(C=NC=C1)[N+](=O)[O-] | C9H11N3O2
